US04772751
Preparation of Phenyldiisopropoxyborane
Following the procedure of Example 9, phenyllithium (17 mL, 30.6 mmol) and triisopropoxyborane (5.6 g, 30 mmol) were reacted, and the reaction quenched with acetyl chloride (2.1 mL, 30 mmol) to yield after distillation 5.2 g (25.2 mmol, 84%).

reactant | phenyllithium | 30.6 mmol, 17 mL | C1(=CC=CC=C1)[Li]
reactant | triisopropoxyborane | 30 mmol, 5.6 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | acetyl chloride | 30 mmol, 2.1 mL | C(C)(=O)Cl | C2H3ClO
product | Phenyldiisopropoxyborane | C1(=CC=CC=C1)B(OC(C)C)OC(C)C | C12H19BO2
